* c:\spb_data\esim-workspace\anand_seq\anand_seq.cir

* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ anand_seq
* u5  net-_u1-pad~_ net-_u2-pad~_ net-_u3-pad~_ net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ adc_bridge_3
* u6  net-_u4-pad4_ net-_r1-pad1_ adc_bridge_1
v1  net-_u1-pad~_ gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
v2  net-_u2-pad~_ gnd pulse(0 1 0.1m 0.1m 0.1m 1 2)
v3  net-_u3-pad~_ gnd pulse(0 1 0.1m 0.1m 0.1m 2 1000)
* u1  net-_u1-pad~_ plot_v1
* u2  net-_u2-pad~_ plot_v1
* u3  net-_u3-pad~_ plot_v1
* u7  out plot_v1
r1  net-_r1-pad1_ out 1k
c1  out gnd 1u
a1 [net-_u4-pad1_ ] [net-_u4-pad2_ ] [net-_u4-pad3_ ] [net-_u4-pad4_ ] u4
a2 [net-_u1-pad~_ net-_u2-pad~_ net-_u3-pad~_ ] [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ ] u5
a3 [net-_u4-pad4_ ] [net-_r1-pad1_ ] u6
* Schematic Name:                             anand_seq, NgSpice Name: anand_seq
.model u4 anand_seq(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(net-_u1-pad~_)
plot v(net-_u2-pad~_)
plot v(net-_u3-pad~_)
plot v(out)
.endc
.end
